US08058285B2
1.10 g (3.2 mmol) 3-amino-6-(3,4-dimethoxyphenyl)-4-methyl-thieno-[2,3-b]pyridine-2-carboxamide and 10.0 ml (89.1 mmol) butyric anhydride in 10 ml toluene are refluxed for 6 h. Having cooled down, the precipitate is sucked off, washed with about 5 ml ethanol and suck dried. The residue is refluxed in 5.0 ml sodium ethylate solution (21%) for 6 h. Having cooled down, the next step is acidification using HCl (10%) to pH 6 under cooling. Then, the precipitate is sucked off, washed with about 30 ml water, suck dried and dried in vacuo at 50° C. 0.59 g (47%) 7-(3,4-dimethoxyphenyl)-9-methyl-2-propyl-pyrido[3′,2′:4,5]thieno-[3,2-d]-pyrimidin-4-one is obtained.

reactant | 3-amino-6-(3,4-dimethoxyphenyl)-4-methyl-thieno-[2,3-b]pyridine-2-carboxamide | 3.2 mmol, 1.10 g | NC1=C(SC2=NC(=CC(=C21)C)C2=CC(=C(C=C2)OC)OC)C(=O)N | C17H17N3O3S
reactant | butyric anhydride | 89.1 mmol, 10.0 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(3,4-dimethoxyphenyl)-9-methyl-2-propyl-pyrido[3′,2′:4,5]thieno-[3,2-d]-pyrimidin-4-one | 0.59 g, 47% | COC=1C=C(C=CC1OC)C=1C=C(C2=C(SC3=C2N=C(NC3=O)CCC)N1)C | C21H21N3O3S
